US07067517B2
Methyl-phenyl-carbamic acid 4-hydroxymethyl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-4-hydroxymethylpyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (62%, oil).

reactant | 1-hydroxy-4-hydroxymethylpyrazole | ON1N=CC(=C1)CO | C4H6N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-hydroxymethyl-pyrazol-1-yl ester | OCC=1C=NN(C1)OC(N(C1=CC=CC=C1)C)=O | C12H13N3O3
